US05294618
Step 1: 1-Hydroxy-1-methyl-1,2,3,4-tetrahydronaphthalene
A solution of 98.0 g (0.670 mol) of α-tetralone in 800 ml of anhydrous ether was added over 30 min to a solution of 285 ml (0.855 mol) of 3.0M methyl magnesium bromide in ether under N2 whilst stirring magnetically. After completion of the addition, the reaction was heated to reflux for 30 min, allowed to cool, then quenched with 120 ml of saturated ammonium chloride solution. The ether layer was decanted from an offwhite solid, washed with water (400 ml), then with saturated sodium chloride solution, dried (K2CO3) and evaporated in vacuo to leave 91.9 g (85%) of an orange solid. NMR δ(CDCl3) 1.57 (3H, s), 1.77 (1H, s), 1.80-2.00 (4H, m), 2.80 (2H, m), 7.08 (1H, d of d), 7.18 (1H, t of d), 7.23 (1H, t of d), 7.60 (1 H, d of d).

reactant | α-tetralone | 0.670 mol, 98.0 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | methyl magnesium bromide | 0.855 mol, 3.0M, 285 ml | C[Mg]Br
solvent | ether | 800 ml | CCOCC | C4H10O
product | 1-Hydroxy-1-methyl-1,2,3,4-tetrahydronaphthalene | 91.9 g, 85% | OC1(CCCC2=CC=CC=C12)C | C11H14O
